US09034866B2
Synthesis of (±)-Methyl 10-bromo-3-((3,5-difluorophenyl)(hydroxy)methyl)-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxylate
Methyl 10-bromo-3-((3,5-difluorophenyl)(hydroxy)methyl)-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxylate was prepared similarly according to the procedure in Example 9. Methyl 10-bromo-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxylate was reacted with 3,5-difluorobenzaldehyde to afford 291 mg (69% yield) of the title compound.

reactant | Methyl 10-bromo-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxylate | BrC=1C(=CC2=C(C=3N(CCO2)C=C(N3)C(=O)OC)C1)F | C13H10BrFN2O3
reactant | 3,5-difluorobenzaldehyde | FC=1C=C(C=O)C=C(C1)F | C7H4F2O
product | (±)-Methyl 10-bromo-3-((3,5-difluorophenyl)(hydroxy)methyl)-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxylate | 291 mg, 69% yield | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)OC)C(O)C3=CC(=CC(=C3)F)F)C1)F | C20H14BrF3N2O4
